US06825188B2
c) (±)-8-[3-[(4-Methoxy-2-pyridyl)amino]-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid
According to the procedure of Example 1(c), except substituting methyl (±)-8-[3-[(4-methoxy-2-pyridyl)amino]-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate for the ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate, the title compound was prepared as an off-white solid: MS (ES) m/e 400.3 (M+H)+. Anal. Calcd for C21H25N3O5.0.75 H2O: C, 61.08; H, 6.47; N, 10.18. Found: C, 61.15; H, 6.20; N, 10.12.

reactant | methyl (±)-8-[3-[(4-methoxy-2-pyridyl)amino]-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | COC1=CC(=NC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OC)C=C1 | C22H27N3O5
reactant | ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | N1=C(C=CC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OCC)C=C1 | C22H27N3O4
solvent | H2O | O | H2O
product | (±)-8-[3-[(4-Methoxy-2-pyridyl)amino]-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid | COC1=CC(=NC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)O)C=C1 | C21H25N3O5
